US04025641
1-Bromo-4-(5-allyloxy-2-hexyloxy)-butane
Using 5-allyloxy-2-hexanol and 1,4-dibromo-butane, the above compound is produced.

reactant | 5-allyloxy-2-hexanol | C(C=C)OC(CCC(C)O)C | C9H18O2
reactant | 1,4-dibromo-butane | BrCCCCBr | C4H8Br2
product | 1-Bromo-4-(5-allyloxy-2-hexyloxy)-butane | BrCCCCOC(C)CCC(C)OCC=C | C13H25BrO2
